.SUBCKT qSOT23 200 100 300 2 1 3
*SOT23
LBI 1 10 0.85NH
*LCI 2 20 0NH
LEI 3 30 0.69NH
CCB 10 2 84FF
CCE 2 30 165FF
CBE 10 30 73FF
LBO 10 100 0.51NH
LCO 2 200 0.49NH
LEO 30 300 0.61NH
.ENDS qSOT23
